### PR TITLE
feat(MultiTapeTM): redirect input and output through work tapes

### PR DESCRIPTION
**Pull request by SamuelSchlesinger**
Add transformations that write output to a fresh work tape and use a work tape in place of native input. Prove execution correspondence, including empty input, boundary clamping, and output emitted on the halting transition.

Part 3/6 of the TM composition stack. Depends on #871. Next: #873.

Validation: strict build, import checks, full tests, and linters.

This PR was composed with Astra via Codex.

### CODE REVIEW

File: Cslib/Computability/Machines/Turing/MultiTape/Plumbing/InputFromWorkTape/Defs.lean [hunk 1]
```diff
@@ -0,0 +1,126 @@
...
+public import Mathlib.Data.Fintype.Sum
+public import Cslib.Computability.Machines.Turing.MultiTape.Plumbing.TapeContents
+public import Cslib.Computability.Machines.Turing.MultiTape.Deterministic
+
+/-!
+# Substituting a work tape for the input tape
+
+The first work tape contains the virtual input. The remaining tapes are the native work tapes.
+A classifier distinguishes the two blank boundaries, preserving native head clamping without
+extending the alphabet. One native step takes two steps, and the real input head stays parked.
```
Comment (crei) [inline Cslib/Computability/Machines/Turing/MultiTape/Plumbing/InputFromWorkTape/Defs.lean:19]:
```suggestion
# Substituting a work tape for the input tape

This file concerns a Turing machine transformation that returns a modified Turing machine which
uses the first work tape as a virtual input tape, the remaining tapes are the original work tapes.
A classifier distinguishes the two blank boundaries of the original input tape, preserving input
head clamping without extending the alphabet. One original step takes two steps, and the real
input head stays parked.
```

File: Cslib/Computability/Machines/Turing/MultiTape/Plumbing/InputFromWorkTape/Defs.lean [hunk 2]
```diff
@@ -0,0 +1,126 @@
...
+
+module
+
+public import Mathlib.Data.Fintype.Prod
+public import Mathlib.Data.Fintype.Sum
+public import Cslib.Computability.Machines.Turing.MultiTape.Plumbing.TapeContents
+public import Cslib.Computability.Machines.Turing.MultiTape.Deterministic
+
+/-!
+# Substituting a work tape for the input tape
```
Comment (crei) [inline Cslib/Computability/Machines/Turing/MultiTape/Plumbing/InputFromWorkTape/Defs.lean:15]: I think this file (or alternatively `InputFromWorkTape.lean`) deserves a bit more documentation. I don't fully understand what is going on here and why we need two steps in the simulation.

Would it make sense to split the simulation in two parts: First, modify a TM so that the input head never tries to go "out of bounds" and second, the input-tape-to-work-tape substitution?

Comment (crei) [reply Cslib/Computability/Machines/Turing/MultiTape/Plumbing/InputFromWorkTape/Defs.lean:15]: Also, would it be easier to add the virtual in put tape at the end?

File: Cslib/Computability/Machines/Turing/MultiTape/Plumbing/OutputToWorkTape.lean [hunk 3]
```diff
@@ -0,0 +1,95 @@
...
+
+module
+
+public import Cslib.Computability.Machines.Turing.MultiTape.Plumbing.TapeContents
+public import Cslib.Computability.Machines.Turing.MultiTape.Deterministic
+
+/-!
+# Redirecting output to a fresh work tape
+
+`outputToWorkTape` adds one work tape, at index `Fin.last k`, and writes the native output there.
```
Comment (crei) [inline Cslib/Computability/Machines/Turing/MultiTape/Plumbing/OutputToWorkTape.lean:15]:
```suggestion
The function `outputToWorkTape` modifies a Turing machine: It adds one work tape, at index `Fin.last k`, and writes the native output there.
```

File: Cslib/Computability/Machines/Turing/MultiTape/Plumbing/OutputToWorkTape.lean [hunk 4]
```diff
@@ -0,0 +1,95 @@
...
+namespace Turing.MultiTapeTM
+
+variable {k : ℕ} {Symbol State : Type*} {input : List Symbol}
+
+/-- Redirect output to a new last work tape without changing the alphabet or control states. -/
+def outputToWorkTape (tm : MultiTapeTM k Symbol State) : MultiTapeTM (k + 1) Symbol State where
+  q₀ := tm.q₀
+  tr q input work :=
+    let out := tm.tr q input (fun i => work i.castSucc)
+    ⟨out.inputMove,
```
Comment (crei) [inline Cslib/Computability/Machines/Turing/MultiTape/Plumbing/OutputToWorkTape.lean:31]: Same comment as in the previous PR applies here: please rename `out` to `action`

File: Cslib/Computability/Machines/Turing/MultiTape/Plumbing/TapeContents.lean [hunk 5]
```diff
@@ -0,0 +1,55 @@
...
+/-! # Contiguous work-tape contents -/
+
+@[expose] public section
+
+namespace Turing.MultiTapeTM
+
+variable {Symbol : Type*}
+
+/-- A tape containing exactly the symbols of `xs` at positions `0, ..., xs.length - 1`. -/
+def listTape (xs : List Symbol) : ℤ → Option Symbol
```
Comment (crei) [inline Cslib/Computability/Machines/Turing/MultiTape/Plumbing/TapeContents.lean:25]:
```suggestion
def listToTape (xs : List Symbol) : ℤ → Option Symbol
```
?

File: Cslib/Computability/Machines/Turing/MultiTape/Plumbing/OutputToWorkTape.lean [hunk 6]
```diff
@@ -0,0 +1,95 @@
...
+      refine Fin.lastCases ?_ (fun j => ?_) i
+      · cases out.outS <;> simp [embed, listTape_append_single]
+      · cases hw : (out.workActions j).1 <;> simp [embed, hw]
+    · funext i
+      refine Fin.lastCases ?_ (fun j => ?_) i
+      · cases out.outS <;> simp [embed]
+      · simp [embed]
+
+/-- Output redirection preserves arbitrary runs, including padded halting times. -/
+lemma runFrom_embed (cfg : Cfg k Symbol State input) (n : ℕ) :
```
Comment (crei) [inline Cslib/Computability/Machines/Turing/MultiTape/Plumbing/OutputToWorkTape.lean:73]: I was wondering if we could generalize this - I think we had the same pattern in the previous PR:

If we have `(f tm).step (g cfg) = g (tm.step cfg)` for certain `f, g` and all `cfg` then `(f tm).runFrom (g cfg) n = g (tm.runFrom cfg n)`?

Comment (crei) [reply Cslib/Computability/Machines/Turing/MultiTape/Plumbing/OutputToWorkTape.lean:73]: This should be it: https://github.com/leanprover/cslib/pull/878
